US07214824B2
2(b): N-{3-fluoro-4-[(methylsulfonyl)amino]benzyl}-2-[4-(2,2,2-trifluoro-1,1-dimethylethy)phenoxy]acetamide
To a tetrahydrofuran (THF) (3.0 ml) solution of [4-(2,2,2-trifluoro-1,1-dimethylethyl)phenoxy]acetic acid (157 mg, 0.6 mmol) was added 2-chloro-1,3-dimethylimidazolinium chloride (CDI) (97 mg, 0.6 mmol) at room temperature and the mixture was stirred for 2 hours, followed by additional stirring for 10 hours with triethylamine (0.33 ml) and N-[4-(aminomethyl)-2-fluorophenyl]methanesulfonamide hydrochloride (122 mg, 0.48 mmol). The reaction was partitioned with water and methylene dichloride and the organic layer was separated, dried over sodium sulfate. After filtration to separate solvent and sodium sulfate, the solvent was removed under reduced pressure to give a residue, which was applied to a silica gel chromatography column and eluted with a volume mixture of methylene dichloride and methanol (5/1 to 5/2) to furnish 62.9 mg (28% yield) of the title compound as colorless oil.

reactant | tetrahydrofuran | 3.0 ml | O1CCCC1 | C4H8O
reactant | [4-(2,2,2-trifluoro-1,1-dimethylethyl)phenoxy]acetic acid | 0.6 mmol, 157 mg | FC(C(C)(C)C1=CC=C(OCC(=O)O)C=C1)(F)F | C12H13F3O3
reactant | 2-chloro-1,3-dimethylimidazolinium chloride | 0.6 mmol, 97 mg | [Cl-].ClC1[NH+](CCN1C)C
reactant | N-[4-(aminomethyl)-2-fluorophenyl]methanesulfonamide hydrochloride | 0.48 mmol, 122 mg | Cl.NCC1=CC(=C(C=C1)NS(=O)(=O)C)F
solvent | triethylamine | 0.33 ml | C(C)N(CC)CC | C6H15N
product | N-{3-fluoro-4-[(methylsulfonyl)amino]benzyl}-2-[4-(2,2,2-trifluoro-1,1-dimethylethy)phenoxy]acetamide | 62.9 mg, 28% yield | FC=1C=C(CNC(COC2=CC=C(C=C2)C(C(F)(F)F)(C)C)=O)C=CC1NS(=O)(=O)C | C20H22F4N2O4S
